US07615642B2
1-({2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)azetidin-3-ol
3-Hydroxyazetidine hydrochloride (162 mg, 1.5 mmol) was dissolved in 7 mL of dry dichloromethane. N,N-diisopropylethylamine (0.7 mL, 4 mmol) was added and the mixture was cooled down to 0° C. 2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazole-5-sulfonyl chloride (400 mg, 1 mmol) was slowly added to the reaction mixture which was allowed to warm to room temperature for 2 hours. The mixture was diluted with EtOAc which washed with water then brine and dried over Na2SO4. The solvent was removed in vacuo to give a crude product that was purified by LCMS using high pH column 40-70% acetonitrile gradient to give 340 mg (62%) of a white solid as the title compound. 1H NMR (400 MHz, METHANOL-D4) δ 1.56-1.66 (m, 2 H), 1.69 (s, 9 H), 1.73-1.84 (m, 4 H), 2.01-2.14 (m, 3 H), 3.45-3.51 (m, 2 H), 4.01 (dd, J=8.79, 6.84 Hz, 2 H), 4.34-4.43 (m, 1 H), 4.58 (d, J=7.62 Hz, 2 H), 7.97 (dd, J=8.79, 1.56 Hz, 1 H), 8.13 (d, J=8.79 Hz, 1 H), 8.18 (d, J=1.76 Hz, 1 H); MS (APPI) (M+H)+=442.3; Anal. Calc. for C21H29F2N3O3S+4.9C2HO2F3+5.0H2O+2.7 CH3CN: C, 39.47; H, 4.14; N, 6.31. Found: C, 39.48; H, 4.14; N, 6.30

reactant | 3-Hydroxyazetidine hydrochloride | 1.5 mmol, 162 mg | Cl.OC1CNC1
reactant | N,N-diisopropylethylamine | 4 mmol, 0.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazole-5-sulfonyl chloride | 1 mmol, 400 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)S(=O)(=O)Cl | C18H23ClF2N2O2S
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-({2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)azetidin-3-ol | 340 mg, 62% | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)S(=O)(=O)N2CC(C2)O | C21H29F2N3O3S
